US06255494B1
Preparation of 4-(prop-2-enyl)-2-[(4-chlorophenoxy)methyl]benzimidazole
In a 100 ml round bottom flask, under a nitrogen atmosphere, were added 4-(prop-2-enyl)-2-[(4-chlorophenoxy)methyl]-1-trifluoromethanesulfonylbenzimidazole (1.00 g, 2.32 mmol) and anhydrous methanol (18 ml). This solution was cooled to 0° C. and potassium carbonate (641 mg, 4.64 mmol) was added. The resulting mixture was stirred for two hours at 0° C., permitted to warm to room temperature, and stirred at this temperature for about three days. The progress of the reaction was monitored by thin layer chromatography. The desired title product was further purified by radial chromatography.

reactant | 4-(prop-2-enyl)-2-[(4-chlorophenoxy)methyl]-1-trifluoromethanesulfonylbenzimidazole | 2.32 mmol, 1.00 g | C(C=C)C1=CC=CC=2N(C(=NC21)COC2=CC=C(C=C2)Cl)S(=O)(=O)C(F)(F)F | C18H14ClF3N2O3S
reactant | potassium carbonate | 4.64 mmol, 641 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 18 ml | CO | CH4O
product | 4-(prop-2-enyl)-2-[(4-chlorophenoxy)methyl]benzimidazole | C(C=C)C1=CC=CC=2N=C(NC21)COC2=CC=C(C=C2)Cl | C17H15ClN2O
